US07622593B2
Preparation of (S)-tert-butyl 4-bromo-1-(4-nitrophenyl)-3-oxobutan-2-ylcarbamate (7):
To a 0° C. solution of (S)-[3-diazo-1-(4-nitrobenzyl)-2-oxo-propyl]-carbamic acid tert-butyl ester, 6, (0.350 g, 1.04 mmol) in THF (5 mL) is added dropwise 48% aq. HBr (0.14 mL, 1.25 mmol). The reaction mixture is stirred at 0° C. for 1.5 hours then the reaction is quenched at 0° C. with sat. Na2CO3. The mixture is extracted with EtOAc (3×25 mL) and the combined organic extracts are washed with brine, dried (Na2SO4), filtered and concentrated to obtain 0.400 g of the product which is used in the next step without further purification. 1H NMR (300 MHz, CDCl3) δ 8.20 (d, J=8.4 Hz, 2H), 7.39 (d, J=8.4 Hz, 2H), 5.06 (d, J=7.8 Hz, 1H), 4.80 (q, J=6.3 Hz, 1H), 4.04 (s, 2H), 1.42 (s, 9H).

reactant | (S)-[3-diazo-1-(4-nitrobenzyl)-2-oxo-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](C(C=[N+]=[N-])=O)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H18N4O5
reactant | HBr | 1.25 mmol, 0.14 mL | Br | BrH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 4-bromo-1-(4-nitrophenyl)-3-oxobutan-2-ylcarbamate | 0.400 g | BrCC([C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O)=O | C15H19BrN2O5
